* D:\Projects\LTSpice\ADA4870\runner\ada4807_4870.asc
* Generated by LTspice 26.0.1 for Windows.
B§IOUTA 0 INN I={IFS/2 + (IFS/2)*sin(2*pi*FREQ*time)}
B§IOUTB 0 INP I={IFS/2 + (IFS/2)*sin(2*pi*FREQ*time + pi)}
X§U1 OUTB OUTA VDD VEE SIGNAL SD ADA4870 ;§pnba 100)101)102)103)104)106
Cb INP 0 22p
Ca INN 0 22p
V1 VDD 0 18
V2 0 VEE 18
Rf SIGNAL OUTA {RfVal}
R1 VEE SD 2K
R2 SD 0 10K
Cload 0 SIGNAL 220p
Ra OUTA N001 {RaVal}
Rb OUTB N002 {RbVal}
Rload SIGNAL 0 {RloadVal}
Cf SIGNAL OUTA {CfVal}
Rpara INN 0 150K
Cpara INN 0 5p
Cparb INP 0 5p
Rparb INP 0 150K
X§U2 0 INN P2V5 N2V5 N001 NC_01 ADA4807 ;§pnba 100)101)102)103)104)106
X§U3 0 INP P2V5 N2V5 N002 NC_02 ADA4807 ;§pnba 100)101)102)103)104)106
V3 0 N2V5 2.5
V4 P2V5 0 2.5
R3 N001 INN 249
R5 N002 INP 249
.param IFS=4m
.param FREQ=1.5Meg
.tran 10us
.MEAS TRAN Vfinal FIND V(SIGNAL) AT=10us
.FOUR 1.5Meg V(SIGNAL)
.param RfVal=702
.param RloadVal=22
.param RaVal=50
.param RbVal=46.7
.param CfVal=2p
* Library below included based on ModelFile attribute of instance X§U2, X§U3 (C:\Users\grand\AppData\Local\LTspice\lib\sym\OpAmps\ADA4807-2.asy)
.lib ADA4807.sub
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\grand\AppData\Local\LTspice\lib\sym\OpAmps\ADA4870.asy)
.lib ADA4870.lib
.backanno
.end
